US07414063B2
Isoquinoline-5-sulfonic acid {2-[2-(2-benzyl-phenoxy)-ethylamino]-ethyl}-methyl-amide di-hydrochloride
A 4N HCl (in 1,4-dioxane, 3 mL) solution is added to a stirred solution of [2-(2-benzyl-phenoxy)-ethyl]-{2-[(isoquinoline-5-sulfonyl)-methyl-amino]-ethyl}-carbamic acid tert-butyl ester (65.0 mg, 0.113 mmol) in anhydrous CH2Cl2 (1 mL) at ambient temperature under nitrogen. The resultant solution is stirred for 2 hours. The mixture is concentrated and the product is treated with CH3OH/EtOAc to form a white suspension. After filtration and vacuum drying, 52.5 mg (0.0957 mmol, 85% yield) of the title compound is obtained as a white solid. ESIMS: m/z 476 (M+H)+.

reactant | HCl | 4N, 3 mL | Cl | ClH
reactant | [2-(2-benzyl-phenoxy)-ethyl]-{2-[(isoquinoline-5-sulfonyl)-methyl-amino]-ethyl}-carbamic acid tert-butyl ester | 0.113 mmol, 65.0 mg | C(C)(C)(C)OC(N(CCN(C)S(=O)(=O)C=1C=2C=CN=CC2C=CC1)CCOC1=C(C=CC=C1)CC1=CC=CC=C1)=O | C32H37N3O5S
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | Isoquinoline-5-sulfonic acid {2-[2-(2-benzyl-phenoxy)-ethylamino]-ethyl}-methyl-amide di-hydrochloride | 0.0957 mmol, 52.5 mg, 85% yield | Cl.Cl.C(C1=CC=CC=C1)C1=C(OCCNCCN(S(=O)(=O)C=2C=3C=CN=CC3C=CC2)C)C=CC=C1 | InChI=1S/C27H29N3O3S.2ClH/c1-30(34(31,32)27-13-7-11-24-21-29-15-14-25(24)27)18-16-28-17-19-33-26-12-6-5-10-23(26)20-22-8-3-2-4-9-22;;/h2-15,21,28H,16-20H2,1H3;2*1H
